US04530922
Preparation of [bis(4-Fluorophenyl)](1H-imidazol-1-ylmethyl)silane
To a solution of 3.0 g (9.9 mmol) of bis(4-fluorophenyl)chlorochloromethylsilane and 50 mg of tetrabutylammonium hydrogen sulfate in 10 ml of toluene is added 2.2 g (20.5 mmol) of potassium imidazole. The resulting exotherm is controlled by cooling with ice-water. Th solution is heated at reflux for 5 hours and then was cooled to -70° C. A solution of 10.5 ml (10.5 mmol) of diisobutylaluminum hydride (1.0 molar) in tetrahydrofuran is then added dropwise, and the reaction is warmed to room temperature and quenched by dropwise addition of saturated aqueous ammonium chloride. The solution is diluted with methylene chloride and washed three times with water and once with brine. Drying over magnesium sulfate and removal of solvent gives a viscous oil which is triturated with ether to give the title compound.

reactant | bis(4-fluorophenyl)chlorochloromethylsilane | 9.9 mmol, 3.0 g | FC1=CC=C(C=C1)[Si](CCl)(Cl)C1=CC=C(C=C1)F | C13H10Cl2F2Si
reactant | potassium imidazole | 20.5 mmol, 2.2 g | N1C=NC=C1.[K]
reactant | diisobutylaluminum hydride | 10.5 mmol, 1.0 molar, 10.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
catalyst | tetrabutylammonium hydrogen sulfate | 50 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [bis(4-Fluorophenyl)](1H-imidazol-1-ylmethyl)silane | FC1=CC=C(C=C1)[SiH](CN1C=NC=C1)C1=CC=C(C=C1)F | C16H14F2N2Si
